US04088652
Preparation of 3-p-Fluorobenzoyl-1-phenyl-3-azabicyclo[3.1.0]hexane
A 6.4 g. portion of 1-phenyl-3-azabicyclo[3.1.0]-hexane is added to 60 ml. of benzene. A 4.2 g. portion of sodium carbonate in 40 ml. of water is added with stirring. A 6.3 g. portion of p-fluorobenzoyl chloride in 40 ml. of benzene is added and the mixture is stirred overnight. The solid in the aqueous layer is recovered by filtration, washed with water and slurried in ether giving the product as white crystals, mp 101°-103° C.

reactant | 1-phenyl-3-azabicyclo[3.1.0]-hexane | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3-p-Fluorobenzoyl-1-phenyl-3-azabicyclo[3.1.0]hexane | FC1=CC=C(C(=O)N2CC3(CC3C2)C2=CC=CC=C2)C=C1 | C18H16FNO
